.SUBCKT 3input0xE_X1 A1 A2 A3 VDD VSS Y
MM5 n2 A3 Y VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 n1 A2 n2 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 VSS A1 n1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 Y aoi21 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n3 A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 n3 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 n3 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM6 n3 aoi21 Y VDD pmos_rvt w=46.0n l=16n nfin=2
MM15 aoi21 A1 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM14 n5 A2 aoi21 VSS nmos_rvt w=46.00n l=16n nfin=2
MM13 n5 A3 VSS VSS nmos_rvt w=46.00n l=16n nfin=2
MM12 n6 A1 VDD VDD pmos_rvt w=46.00n l=16n nfin=2
MM11 n6 A2 aoi21 VDD pmos_rvt w=46.00n l=16n nfin=2
MM10 n6 A3 aoi21 VDD pmos_rvt w=46.00n l=16n nfin=2
.ENDS
