.SUBCKT AND2_X1 A1 A2 VDD VSS Z
MM4 Z net10 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM1 net10 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 net10 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 Z net10 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 net20 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 net10 A1 net20 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
