.SUBCKT AND3_X2 A1 A2 A3 VDD VSS Z
MM7 Z net10 VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM6 net10 A3 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM5 net10 A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM4 net10 A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM3 Z net10 VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 net30 A1 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 net20 A3 net30 VSS nmos_rvt w=46.0n l=16n nfin=2
MM0 net10 A2 net20 VSS nmos_rvt w=46.0n l=16n nfin=2
.ENDS
