.SUBCKT BUF_X2 I VDD VSS Z
MM3 Z in VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM2 in I VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM0 Z in VDD VDD pmos_rvt w=92.0n l=16n nfin=4
MM1 in I VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS
