.SUBCKT BUF_X4 I VDD VSS Z
MM3 Z in VSS VSS nmos_rvt w=184.0n l=16n nfin=8
MM2 in I VSS VSS nmos_rvt w=92.0n l=16n nfin=4
MM0 Z in VDD VDD pmos_rvt w=184.0n l=16n nfin=8
MM1 in I VDD VDD pmos_rvt w=92.0n l=16n nfin=4
.ENDS
