.SUBCKT NAND2_X1 A1 A2 VDD VSS ZN
MM3 net16 A2 VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 ZN A1 net16 VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 ZN A2 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM0 ZN A1 VDD VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS
